US07723333B2
tert-Butyl 3-({2-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethyl}thio)pyrrolidine-1-carboxylate
2-[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethyl 4-methylbenzenesulfonate (150 mg, 0.313 mmol) was dissolved in dry MeCN (3 mL) under nitrogen atmosphere. tert-Butyl 3-mercaptopyrrolidine-1-carboxylate (70 mg, 0.345 mmol) was added followed by potassium carbonate (217 mg, 1.567 mmol). The reaction mixture was heated in a microwave reactor at 120° C. for 15 mins. Potassium carbonate was filtered off and the reaction mixture was evaporated to dryness in a vacuum centrifuge. The crude product was purified by preparative HPLC affording the title compound (134 mg, 83.4%). The product is a mixture of cis and trans isomers. 1H NMR (CDCl3, 500 MHz): δ 1.47 (s, 9H), 1.73 (s, 10H), 2.05 (s, 1H), 2.46-2.51 (m, 2H), 2.88 (bs, 1H), 3.01-3.13 (m, 3H), 3.29 (s, 1H), 3.41-3.57 (m, 2H), 5.65 (bs, 1H), 7.43-7.46 (m, 3H), 7.49-7.53 (m, 2H); 13C NMR (CDCl3, 125 MHz): δ 27.83, 28.73, 31.29, 32.33, 32.86, 41.74, 42.41, 43.23, 44.86, 45.09, 52.27, 52.53, 61.86, 79.79, 108.04, 125.15, 129.04, 130.04, 131.65, 134.81, 154.41, 159.66; Mass Spectrum: M+H+ 509.9.

reactant | 2-[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethyl 4-methylbenzenesulfonate | 0.313 mmol, 150 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C22H26N2O6S2
reactant | tert-Butyl 3-mercaptopyrrolidine-1-carboxylate | 0.345 mmol, 70 mg | SC1CN(CC1)C(=O)OC(C)(C)C | C9H17NO2S
reactant | potassium carbonate | 1.567 mmol, 217 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MeCN | 3 mL | CC#N | C2H3N
product | tert-Butyl 3-({2-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethyl}thio)pyrrolidine-1-carboxylate | 134 mg, 83.4% | C(C)(C)(C)N1S(C(=C(C1=O)NCCSC1CN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)(=O)=O | C24H35N3O5S2
